US06297239B1
Step A: Preparation of 4-Iodo-3-(naphthalen-2-yloxy)-benzoic Acid Methyl Ester
A mixture of 3-hydroxy-4-iodo-benzoic acid acid methyl ester (0.505 g, 1.82 mmol), cupric acetate (0.330 g, 1.82 mmol), 2-naphthylboronic acid (0.625 g, 3.63 mmol) and powdered 4A molecular sieves (0.3 g) in CH2Cl2 (21 mL) was treated with triethylamine (1.27 mL, 9.08 mmol) and stirred at ambient temperature for 18 hr. The reaction mixture was filtered through celite, concentrated to dryness and chromatographed (SiO2, 5-40% EtOAc: hexane) to give the title compound. FAB mass spectrum (M+1) 405.

reactant | 3-hydroxy-4-iodo-benzoic acid | 1.82 mmol, 0.505 g | OC=1C=C(C(=O)O)C=CC1I | C7H5IO3
reactant | 2-naphthylboronic acid | 3.63 mmol, 0.625 g | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | triethylamine | 9.08 mmol, 1.27 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 21 mL | C(Cl)Cl | CH2Cl2
product | 4-Iodo-3-(naphthalen-2-yloxy)-benzoic Acid Methyl Ester | COC(C1=CC(=C(C=C1)I)OC1=CC2=CC=CC=C2C=C1)=O | C18H13IO3
